US08541588B2
tert-Butyl 4-[4-(5-chloro-2-hydroxyphenyl)pyrimidin-2-yl]piperazine-1-carboxylate
tert-Butyl piperazine-1-carboxylate (24.0 mg, 0.125 mmol) was added to a mixture of 4-chloro-2-(2-chloropyrimidin-4-yl)phenol (Preparation 874, 30.1 mg, 0.125 mmol), and triethylamine (61.2 uL, 0.437 mmol) in isopropyl alcohol (0.2 mL, 3 mmol). The reaction mixture was stirred at ambient temperature. After 18 hours, LC/MS analysis indicated the reaction was not complete. The reaction mixture was heated 30 minutes at 70° C. then cooled to ambient temperature. The reaction mixture was diluted with ethyl acetate, washed with water then brine, dried over sodium sulfate, filtered, and concentrated to give the product as a light brown paste (50 mg, 100%).

reactant | tert-Butyl piperazine-1-carboxylate | 0.125 mmol, 24.0 mg | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | 4-chloro-2-(2-chloropyrimidin-4-yl)phenol | 0.125 mmol, 30.1 mg | ClC1=CC(=C(C=C1)O)C1=NC(=NC=C1)Cl | C10H6Cl2N2O
reactant | triethylamine | 0.437 mmol, 61.2 uL | C(C)N(CC)CC | C6H15N
reactant | isopropyl alcohol | 3 mmol, 0.2 mL | C(C)(C)O | C3H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-Butyl 4-[4-(5-chloro-2-hydroxyphenyl)pyrimidin-2-yl]piperazine-1-carboxylate | ClC=1C=CC(=C(C1)C1=NC(=NC=C1)N1CCN(CC1)C(=O)OC(C)(C)C)O | C19H23ClN4O3
